US08357693B2
A suspension of tert-butyl 5-(2-(3-(2-chloroacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (112 mg, 0.223 mmol), 1-isopropylpiperazine (52 mg, 0.406 mmol), DMA (51 mg, 0.402 mmol) in DMF (2 mL) was stirred at 75° C. for 4 h. The reaction mixture was cooled to RT and the residue was poured into ice-water. The resulting white solid was filtered and dried for several hours under high vacuum. The crude product was purified by prep TLC using CH2Cl2:MeOH, (9:1) as the mobile phase to afford tert-butyl 5-(2-(3-(3-(4-isopropylpiperazin-1-yl)propanamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (60 mg, 0.094 mmol, 42%)

reactant | tert-butyl 5-(2-(3-(2-chloroacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.223 mmol, 112 mg | ClCC(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C28H25ClN6O3
reactant | 1-isopropylpiperazine | 0.406 mmol, 52 mg | C(C)(C)N1CCNCC1 | C7H16N2
reactant | DMA | 0.402 mmol, 51 mg | CC(=O)N(C)C | C4H9NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(2-(3-(3-(4-isopropylpiperazin-1-yl)propanamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | C(C)(C)N1CCN(CC1)CCC(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C36H42N8O3
